US08492548B2
2-Chloro-1-phenylethanone (I19) (24.4 mg, 0.16 mmol) was added to a solution of 3-(2-oxo-1-phenyl-2-((R)-quinuclidin-3-yloxy)ethylamino)benzoic acid (I5) (60 mg, 0.16 mmol) in acetonitrile (1 ml) and DMF (1 ml). The reaction mixture was stirred at room temperature for 24 hours. The solvent was evaporated, and the residue was purified by preparative HPLC (eluents CH3CN/H2O) to obtain (3R)-3-(2-(3-carboxyphenylamino)-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (12 mg, 14.2% yield).

reactant | 2-Chloro-1-phenylethanone | 0.16 mmol, 24.4 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | 3-(2-oxo-1-phenyl-2-((R)-quinuclidin-3-yloxy)ethylamino)benzoic acid | 0.16 mmol, 60 mg | O=C(C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=CC1)O[C@H]1CN2CCC1CC2 | C22H24N2O4
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (3R)-3-(2-(3-carboxyphenylamino)-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 12 mg, 14.2% yield | [Cl-].C(=O)(O)C=1C=C(C=CC1)NC(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C30H30N2O5.ClH/c33-26(21-8-3-1-4-9-21)19-32-16-14-22(15-17-32)27(20-32)37-30(36)28(23-10-5-2-6-11-23)31-25-13-7-12-24(18-25)29(34)35;/h1-13,18,22,27-28,31H,14-17,19-20H2;1H/t22?,27-,28?,32?;/m0./s1
